US06936608B2
2-{7-[3-(3,5-Difluoropyridin-2-yl)phenyl]imidazo[1,2-b][1,2,4]triazin-3-yl}-propan-2-ol
3-(3,5-Difluoropyridin-2-yl)phenylboronic acid (25 mg, 0.11 mmol) was coupled to 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol (27 mg, 0.11 mmol) using the method of Example 20. Purification by chromatography (silica gel, 3% MeOH/CH2Cl2) gave impure product as a yellow solid. The product was then dissolved in hydrochloric acid (2 N, 50 ml), filtered and washed with diethyl ether (2×20 ml). The acid solution was cooled to 0° C. and neutralised with saturated aqueous sodium hydrogencarbonate and extracted with ethyl acetate (3×20 ml). The combined organic phases were dried over anhydrous magnesium sulphate, filtered and evaporated to give the title compound as a yellow solid: 1H. NMR (400 MHz, CDCl3) δ 1.72 (6H, s), 3.35 (1H, s), 7.32-7.38 (1H, m), 7.64 (1H, t, J 8 Hz), 7.95-7.98 (1H, m), 8.10-8.13 (1H, m), 8.33 (1H, 8), 8.48 (1H, d, J 3 Hz), 8.60-8.61 (1H, m), 8.79 (1H, s); MS (ES+) m/z 368 [M+H]+.

reactant | 3-(3,5-Difluoropyridin-2-yl)phenylboronic acid | 0.11 mmol, 25 mg | FC=1C(=NC=C(C1)F)C=1C=C(C=CC1)B(O)O | C11H8BF2NO2
reactant | 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol | 0.11 mmol, 27 mg | BrC1=CN=C2N1N=CC(=N2)C(C)(C)O | C8H9BrN4O
solvent | hydrochloric acid | 2 N, 50 ml | Cl | ClH
product | 2-{7-[3-(3,5-Difluoropyridin-2-yl)phenyl]imidazo[1,2-b][1,2,4]triazin-3-yl}-propan-2-ol | FC=1C(=NC=C(C1)F)C=1C=C(C=CC1)C1=CN=C2N1N=CC(=N2)C(C)(C)O | C19H15F2N5O
